US08492559B2
Stage 7: tert-Butyl 3-(4-(dimethylamino)-4-(thiophen-2-yl)piperidin-1-yl)propyl(methyl)carbamate
6.4 g (1.3 eq.) tert-butyl methyl(3-oxopropyl)carbamate were added to a solution of 7.5 g (1 eq.) N,N-dimethyl-4-(thiophen-2-yl)piperidin-4-amine bis hydrochloride in 75 ml methanol at 0° C. and the reaction mixture was stirred for 15 min at 0° C. 4.9 g (3 eq.) sodium cyanoboron hydride were then added in portions and the mixture was stirred for 90 min at room temperature. The reaction course was monitored by thin-layer chromatography (20% MeOH/CHCl3). As the conversion was not yet complete, the pH of the reaction mixture was adjusted to 5-6 with acetic acid and the mixture was stirred for 12 h at room temperature. Once the conversion was complete, the methanol was distilled off, water was added, the mixture obtained was extracted with IPA/chloroform (2×100 ml) and the combined organic phases were dried over Na2SO4. Following removal of the solvent under reduced pressure, the residue was purified by column chromatography (silica gel; 5% MeOH/CHCl3). 8.5 g (84%) of product were obtained.

reactant | tert-butyl methyl(3-oxopropyl)carbamate | 6.4 g, 1.3 eq. | CN(C(OC(C)(C)C)=O)CCC=O | C9H17NO3
reactant | N,N-dimethyl-4-(thiophen-2-yl)piperidin-4-amine bis hydrochloride | 7.5 g, 1 eq. | Cl.Cl.CN(C1(CCNCC1)C=1SC=CC1)C
reactant | sodium cyanoboron hydride | 4.9 g, 3 eq. | C(#N)B.[Na]
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | methanol | 75 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | tert-Butyl 3-(4-(dimethylamino)-4-(thiophen-2-yl)piperidin-1-yl)propyl(methyl)carbamate | 8.5 g, 84% | CN(C1(CCN(CC1)CCCN(C(OC(C)(C)C)=O)C)C=1SC=CC1)C | C20H35N3O2S
